*********************************************************************
* Xyce netlist for testing Spectre comment lines.  A simple
* V-R-R circuit suffices.  See SRN Bug 2065, and the Spectre
* netlist, for the format of the Spectre comment and
* continuation lines that are being tested.  However, the 
* brief summary of the comment lines is:
*   1) Comment lines that start with //
*
*   2) Comment lines that start with *
*
*   3) In-line comments like this that have "space followed by //":
*     R1 (net7 V2) resistor r=1K // this is an inline Spectre comment
*
* We also check that the title line (first line) of the Spectre 
* netlist appears in the translated Xyce netlist.
*
* The final check is on continuation lines that don't have a space 
* before the backslash (\) continuation character.  See the instance 
* line for V1 in the Spectre netlist.
*********************************************************************

*Analysis directives: 
.TRAN  0 1ms 0
.PRINT TRAN V(V2) 

RR1        net7 V2  1k 
RR2        0 V2 2K 
VV1        net7 0 SIN(0 1 1KHz 0 0 0)

.END

